US08957065B2
Step 1) Preparation of thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione
Methyl 3-aminothiophene-2-carboxylate (4.9 g, 31.3 mmol) and urea (19 g, 187 mmol) were dissolved in N,N-dimethylformamide (10 mL), the reaction temperature was raised to 190° C., followed by stirring for 12 hours. After the reaction was complete, the reaction mixture was added to 1N NaOH aqueous solution, cooled to room temperature and filtered under a reduced pressure to remove the insoluble precipitate. The filtrate was acidified (pH 2) with 2N HCl aqueous solution, and the resulting solid was filtered under a reduced pressure with washing using distilled water. The resulting solid was dried under a reduced pressure to obtain the title compound (yield: 3.2 g, 61.5%).

reactant | Methyl 3-aminothiophene-2-carboxylate | 31.3 mmol, 4.9 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | urea | 187 mmol, 19 g | NC(=O)N | CH4N2O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione | yield: 3.2 g, 61.5% | N1C(NC(C2=C1C=CS2)=O)=O | C6H4N2O2S
